US06051712
A solution of 200 mg (0.35 mmol) of tert-butyl 3RS,4RS)-4-[4-(3-methylsulphonyloxy-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate in 1 ml of ethyl acetate was treated with 60 μl of morpholine and boiled under reflux for 3 hours. Subsequently, the reaction solution was diluted with 5 ml of ethyl acetate and extracted twice with 1 ml of saturated sodium hydrogen carbonate solution each time. The organic phases were dried over magnesium sulphate, evaporated under reduced pressure and dried in a high vacuum. The colourless oil (169 mg) was chromatographed on silica gel using ethyl acetate and the eluent. There were obtained 142 mg of tert-butyl (3RS,4RS)-4-[4-(3-morpholin-4-yl-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate in the form of white crystals; MS: 561 (M+H)+.

reactant | 4-[4-(3-methylsulphonyloxy-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | CS(=O)(=O)OCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)[O-])OCC1=CC2=CC=CC=C2C=C1
reactant | morpholine | 60 μl | N1CCOCC1 | C4H9NO
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3RS,4RS)-4-[4-(3-morpholin-4-yl-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | 142 mg | N1(CCOCC1)CCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C34H44N2O5
